US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-methyl-3-oxo-2-phenyl-5-(trifluoromethyl)-2,3-dihydro-1H-pyrazole-4-carboxamide
A mixture of 1-methyl-3-oxo-2-phenyl-5-(trifluoromethyl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid (450 mg, 1.6 mmol), N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (360 mg, 1.1 mmol), HATU (590 mg, 1.6 mmol), diisopropylethylamine (430 mg, 3.3 mmol) and N,N-dimethylformamide (7 mL) was stirred at room temperature for 13 hr. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution were added to the mixture, and the aqueous layer was extracted 4 times with ethyl acetate/tetrahydrofuran. The combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=40/60→100/0) to give the title compound (320 mg, 48%) as a pale-yellow solid.

reactant | 1-methyl-3-oxo-2-phenyl-5-(trifluoromethyl)-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.6 mmol, 450 mg | CN1N(C(C(=C1C(F)(F)F)C(=O)O)=O)C1=CC=CC=C1 | C12H9F3N2O3
reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 1.1 mmol, 360 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | HATU | 1.6 mmol, 590 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 3.3 mmol, 430 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-methyl-3-oxo-2-phenyl-5-(trifluoromethyl)-2,3-dihydro-1H-pyrazole-4-carboxamide | 320 mg, 48% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2C(F)(F)F)C)C2=CC=CC=C2)=O)F)C1 | C29H22F4N6O4
